US04157257
N-Allyl-N-(2-chlorobenzoyl)benzenesulfonamide
3.0 g (0.01 mole) of N-2-chlorobenzoyl benzenesulfonamide prepared from benzenesulfonamide and 2-chlorobenzoyl chloride was added to 0.58 g (0.012 mole) of 50% sodium hydride in 15 ml of dry tetrahydrofuran. After stirring for 30 minutes at room temperature, 1.48 g (0.012 mole) of allyl bromide was added. Then the mixture was reacted for 2 hours under the same conditions. The tetrahydrofuran was distilled off under reduced pressure, and cold water was added. The resulting oil layer was extracted with benzene. The benzene layer was separated, dried over anhydrous magnesium sulfate, and concentrated to afford a white solid. Recrystallization from methanol afforded compound No. 27 in Table 2 in a yield of 35%.

reactant | N-2-chlorobenzoyl benzenesulfonamide | 0.01 mole, 3.0 g | ClC1=C(C(=O)NS(=O)(=O)C2=CC=CC=C2)C=CC=C1 | C13H10ClNO3S
reactant | benzenesulfonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | 2-chlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | sodium hydride | 0.012 mole, 0.58 g | [H-].[Na+]
reactant | allyl bromide | 0.012 mole, 1.48 g | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-Allyl-N-(2-chlorobenzoyl)benzenesulfonamide | yield of 35% | C(C=C)N(S(=O)(=O)C1=CC=CC=C1)C(C1=C(C=CC=C1)Cl)=O | C16H14ClNO3S
